US09422292B2
A mixture of 2-(6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)acetic acid (15 mg, 0.04 mmol), ethanamine (4 mg, 1.12 mmol), HATU (19 mg, 0.05 mmol), DIEA (8 mg, 0.06 mmol) in DCM (5 mL) was stirred overnight at room temperature. The mixture was concentrated and purified by prep-HPLC to give 2-(6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)-N-ethylacetamide as a white solid (4 mg).

reactant | 2-(6-(4-chlorophenyl)-1-methyl-5-oxo-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)acetic acid | 0.04 mmol, 15 mg | ClC1=CC=C(C=C1)N1C2=C(N3C(C(C1=O)CC(=O)O)=NN=C3C)C=CC=C2 | C19H15ClN4O3
reactant | ethanamine | 1.12 mmol, 4 mg | C(C)N | C2H7N
reactant | HATU | 0.05 mmol, 19 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.06 mmol, 8 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-4-yl)-N-ethylacetamide | 4 mg | ClC1=CC=C(C=C1)N1C2=C(N3C(C(C1)CC(=O)NCC)=NN=C3C)C=CC=C2 | C21H22ClN5O
